US05283361
F. 1-[2-(4-fluorophenylthio)-6-fluorophenyl]3-bromoprop-1-ene.
1-(2-(4-fluorophenylthio)-6-fluorophenyl)prop-2-en-1-ol (2.29 g, 8.23 mmol) is dissolved in 10 ml of hexane and 10 ml of diethyl ether and cooled in an ice bath. Concentrated HBr acid (4.6 ml, 41.2 mmol) is then added dropwise and the reaction mixture is stirred vigorously for 5 hours at room temperature. The reaction mixture is then poured into water and extracted twice with diethyl ether. The extracts are washed with water and then brine and dried over MgSO4 to afford the subtitle compound.

reactant | 1-(2-(4-fluorophenylthio)-6-fluorophenyl)prop-2-en-1-ol | 8.23 mmol, 2.29 g | FC1=CC=C(C=C1)SC1=C(C(=CC=C1)F)C(C=C)O | C15H12F2OS
reactant | diethyl ether | 10 ml | C(C)OCC | C4H10O
reactant | HBr | 41.2 mmol, 4.6 ml | Br | BrH
reactant | water | O | H2O
solvent | hexane | 10 ml | CCCCCC | C6H14
product | 1-[2-(4-fluorophenylthio)-6-fluorophenyl]3-bromoprop-1-ene | FC1=CC=C(C=C1)SC1=C(C(=CC=C1)F)C=CCBr | C15H11BrF2S
